US09403818B2
Preparation of methyl 8-(6-hydroxypyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(6-hydroxypyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ol (90.8 mg, 0.41 mmol). The precipitate was rinsed with DCM and dried in a vacuum stove to afford quantitatively the title compound as a yellow solid.

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ol | 0.41 mmol, 90.8 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)O)C | C11H16BNO3
product | methyl 8-(6-hydroxypyridin-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | OC1=CC=C(C=N1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C20H18N2O4
